US04461774
To a solution of (-)-3-[2-(4-chlorophenyl)isovaleroyloxy]-2-(2,4-dichlorophenyl)-1-(imidazol-1-yl)-2-propanol (6.85 g; M.P., 174°-175° C.) in ethanol (60 ml) was added a solution of sodium hydroxide (1.8 g) in water (10 ml), and the mixture was heated with stirring at 80° C. for 4 hours. The solvent was removed in vacuo and the residue was dissolved in 6N hydrochloric acid (70 ml). The acidic aqueous solution was washed with chloroform (20 ml×2) and then neutralized with a 28% aqueous ammonia solution. The resulting crystals were collected by filtration to give (-)-2-(2,4-dichlorophenyl)-1-(imidazol-1-yl)-2,3-propanediol. Yield, 3.6 g; 88%. M.P., 138.5°-141° C. [α]D24, -108.5° (C=1.0, MeOH).

reactant | (-)-3-[2-(4-chlorophenyl)isovaleroyloxy]-2-(2,4-dichlorophenyl)-1-(imidazol-1-yl)-2-propanol | 6.85 g | ClC1=CC=C(C=C1)C(C(=O)OCC(CN1C=NC=C1)(O)C1=C(C=C(C=C1)Cl)Cl)C(C)C | C23H23Cl3N2O3
reactant | sodium hydroxide | 1.8 g | [OH-].[Na+]
solvent | ethanol | 60 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
product | (-)-2-(2,4-dichlorophenyl)-1-(imidazol-1-yl)-2,3-propanediol | ClC1=C(C=CC(=C1)Cl)C(CN1C=NC=C1)(CO)O | C12H12Cl2N2O2
